US06281194B1
Step 1: [(4-Methoxy-benzyl)-amino]-acetic Acid Tert-butyl Ester
According to Example 1, Step 1, by substituting 4-methoxybenzaldehyde for 4-benzyloxybenzaldehyde and glycine tert-butyl ester hydrochloride for glycine methyl ester hydrochloride, the title compound was obtained as a yellow oil (80% yield).

reactant | 4-benzyloxybenzaldehyde | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | glycine tert-butyl ester hydrochloride | Cl.C(C)(C)(C)OC(CN)=O
reactant | glycine methyl ester hydrochloride | Cl.COC(CN)=O
product | [(4-Methoxy-benzyl)-amino]-acetic Acid Tert-butyl Ester | C(C)(C)(C)OC(CNCC1=CC=C(C=C1)OC)=O | C14H21NO3
